US03934008
5. BOC-Asn-Leu-Ser-Thr-OBzl
20.8 g of BOC-Asn-OH are suspended in 208 ml of acetonitrile, mixed with 22.7 g of Woodward's Reagent K and the mixture stirred for 30 minutes at 20°C. 12.6 ml of triethylamine are then added dropwise, whilst stirring, in such a way that the internal temperature does not exceed +32°C, and the mixture is cooled to 20°C and stirred for a further 50 minutes at this temperature. The almost clear solution is cooled to 0°C and is mixed with a solution, also cooled to 0°C, of 39.1 g of H-Leu-Ser-Thr-OBzl.TFA and 10.5 ml of triethylamine in 257 ml of dimethylformamide. The reaction mixture, which soon solidifies, is stirred overnight at room temperature, cooled to -10°C and stirred for a further 2 hours at -10°C. Thereafter the crystalline precipitate is filtered off and the tetrapeptide derivative is washed once with cold acetonitrile, once with ethyl acetate and three times with water it is free of chloride. The resulting product is crystallised from 370 ml of dimethylformamide, 3.7 ml of glacial acetic acid and 370 ml of acetonitrile. Melting point 225-226°C; [α]D = -36° c = 2 in dimethylformamide); Rf6 = 0.85 (on silica gel).

reactant | BOC-Asn-OH | 20.8 g | N([C@@H](CC(N)=O)C(=O)O)C(=O)OC(C)(C)C | C9H16N2O5
reactant | Woodward's Reagent K | 22.7 g | CC[N+]1=CC=C(O1)C2=CC(=CC=C2)S(=O)(=O)[O-] | C11H11NO4S
reactant | triethylamine | 12.6 ml | C(C)N(CC)CC | C6H15N
reactant | H-Leu-Ser-Thr-OBzl.TFA | 39.1 g | N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H]([C@H](O)C)C(=O)OCC1=CC=CC=C1.FC(F)(F)C(=O)O
reactant | triethylamine | 10.5 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 208 ml | C(C)#N | C2H3N
solvent | dimethylformamide | 257 ml | CN(C=O)C | C3H7NO
product | BOC-Asn-Leu-Ser-Thr-OBzl | N([C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H]([C@H](O)C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C29H45N5O10
